US04714492
10 g of 3-methoxycarbonyl-6-methyl-2-(4'-chlorophenyl)-4-pyrone, 1.65 g glacial acetic acid and 100 ml of methanol are mixed in 500 ml flask fitted with a magnetic stirring bar and sidearm addition funnel. 6.15 g of allylamine are slowly added (one hour addition time). Three hours later 20 ml of water and 8 ml of concentrate HCl are added. This reaction mixture is allowed to stand at room temperature for one hour, then is poured into 400 ml of water and extracted with methylene chloride (2×100 ml). Removal of the solvent yields 10 g of crude methyl 1-allyl-6-methyl-2-(4'-chlorophenyl)-4-oxonicotinate.

reactant | 3-methoxycarbonyl-6-methyl-2-(4'-chlorophenyl)-4-pyrone | 10 g | COC(=O)C1=C(OC(=CC1=O)C)C1=CC=C(C=C1)Cl | C14H11ClO4
reactant | acetic acid | 1.65 g | C(C)(=O)O | C2H4O2
reactant | allylamine | 6.15 g | C(C=C)N | C3H7N
reactant | HCl | 8 ml | Cl | ClH
solvent | water | 400 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | methyl 1-allyl-6-methyl-2-(4'-chlorophenyl)-4-oxonicotinate | 10 g | C(C=C)N1C(=C(C(=O)OC)C(C=C1C)=O)C1=CC=C(C=C1)Cl | C17H16ClNO3
